US08669271B2
4-[5-(4-Methanesulfonylmethyl-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid isopropyl ester
The title compound is prepared from 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid isopropyl ester and [4-[(methylsulfonyl)methyl]phenyl]boronic acid following a procedure analogous to that described in Example 28. LC (method 7): tR=1.07 min; Mass spectrum (ESI+): m/z=459 [M+H]+.

reactant | 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C16H21ClN2O3
reactant | [4-[(methylsulfonyl)methyl]phenyl]boronic acid | CS(=O)(=O)CC1=CC=C(C=C1)B(O)O | C8H11BO4S
product | 4-[5-(4-Methanesulfonylmethyl-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=CC=C(C=C2)CS(=O)(=O)C)O1 | C24H30N2O5S
